US06617339B1
5(R)-hydroxymethyl-3-(3-fluoro-4-(piperazin-1-yl)phenyl)oxazolidin-2-one hydrochloride (25 g, 75.4 mmol ) was suspended by stirring in acetonitrile (700 ml) under nitrogen, and triethylamine (16.8 g, 166 mmol ) added, The mixture was stirred for 10 minutes and then 2-chloro-5-cyanopyridine (10.3 g, 75.4 mmol ) added, and the mixture heated under reflux for 18 hours. After cooling, the resultant solid was filtered, washed with water (3×500 ml) and diethyl ether (2×500 ml) to give 5(R)-hydroxymethyl-3-(4-(4-(5-cyanopyrid-2-yl)piperazin-1-yl)-3-fluorophenyl)-oxazolidin-2-one. A further crop was obtained by evaporation of the mother liquors to give a total yield of 23.2 g. MS: ESP+ (M+H)+=398.

reactant | 5(R)-hydroxymethyl-3-(3-fluoro-4-(piperazin-1-yl)phenyl)oxazolidin-2-one hydrochloride | 75.4 mmol, 25 g | Cl.OC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)N1CCNCC1)F
reactant | triethylamine | 166 mmol, 16.8 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-5-cyanopyridine | 75.4 mmol, 10.3 g | ClC1=NC=C(C=C1)C#N | C6H3ClN2
solvent | acetonitrile | 700 ml | C(C)#N | C2H3N
product | 5(R)-hydroxymethyl-3-(4-(4-(5-cyanopyrid-2-yl)piperazin-1-yl)-3-fluorophenyl)-oxazolidin-2-one | OC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)N1CCN(CC1)C1=NC=C(C=C1)C#N)F | C20H20FN5O3
